US04246429
To a stirred solution of 13.2 parts of N-(m-chlorophenyl)-2-(2,6-dichlorophenyl)glycine in 80 parts of hexamethylphosphoramide are added portionwise 2.1 parts of sodium hydride 50% and the whole is stirred for 30 minutes. Then there are added dropwise 6.9 parts of ethyl iodide and stirring is continued for 20 hours at room temperature. The reaction mixture is poured onto 320 parts of benzene. The organic layer is washed successively twice with 50 parts of water, twice with 50 parts of a sodium hydroxide solution 5% and again twice with 50 parts of water, dried, filtered and evaporated. The oily residue solidifies on standing at room temperature. The solid product is filtered off and crystallized from 2-propanol, yielding 8.9 parts of ethyl N-(m-chlorophenyl)-2-(2,6-dichlorophenyl)glycine; mp. 120.5° C.

reactant | N-(m-chlorophenyl)-2-(2,6-dichlorophenyl)glycine | ClC=1C=C(C=CC1)NC(C(=O)O)C1=C(C=CC=C1Cl)Cl | C14H10Cl3NO2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl N-(m-chlorophenyl)-2-(2,6-dichlorophenyl)glycine | C(C)N(C(C(=O)O)C1=C(C=CC=C1Cl)Cl)C1=CC(=CC=C1)Cl | C16H14Cl3NO2
